US07476674B2
1.1. Ethyl (2E)-4-(1-azabicyclo[3.2.1]oct-5-yl)-4-oxobut-2-enoate
5.00 g (12.09 mmol) of 1-(1-azabicyclo[3.2.1]oct-5-yl)-2-(triphenylphosphanylidene)-ethanone in solution in 20 ml of chloroform and 20 ml of toluene are introduced into a 100 ml three-necked round-bottomed flask. 1.36 g (13.3 mmol) of ethyl glyoxylate are subsequently added and the reaction medium is refluxed at ambient temperature for 15 min. The solvent is eliminated by evaporation under reduced pressure and the residue obtained is purified by silica gel column chromatography, elution being carried out with a mixture of chloroform, methanol and aqueous ammonia in the proportions 89/2/0.2. 1.44 g of product are obtained in the form of an amorphous solid.

reactant | 1-(1-azabicyclo[3.2.1]oct-5-yl)-2-(triphenylphosphanylidene)-ethanone | 12.09 mmol, 5.00 g | N12CCCC(CC1)(C2)C(C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C27H28NOP
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl glyoxylate | 13.3 mmol, 1.36 g | C(C=O)(=O)OCC | C4H6O3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl (2E)-4-(1-azabicyclo[3.2.1]oct-5-yl)-4-oxobut-2-enoate | 1.44 g | N12CCCC(CC1)(C2)C(/C=C/C(=O)OCC)=O | C13H19NO3
